US08957070B2
Benzyl 2-amino-3-iodobenzoate
To a solution of 2-amino-3-iodobenzoic acid (5.00 g), benzyl alcohol (2.17 mL) and triphenylphosphine (7.97 g) in tetrahydrofuran (76 mL) was added a 40% toluene solution (13.2 g) of diethyl azodicarboxylate, and the mixture was stirred at room temperature for 0.5 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=0:100-15:85) to give the title compound (5.56 g, yield 83%) as an orange oil. MS m/z 354 (M+H+).

reactant | 2-amino-3-iodobenzoic acid | 5.00 g | NC1=C(C(=O)O)C=CC=C1I | C7H6INO2
reactant | benzyl alcohol | 2.17 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | triphenylphosphine | 7.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 76 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | toluene | 13.2 g | C1(=CC=CC=C1)C | C7H8
product | Benzyl 2-amino-3-iodobenzoate | 5.56 g, yield 83% | NC1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1I | C14H12INO2
